US07319099B2
Preparation of (6-Cyclopentyloxy-2-fluoro-3-methanesulfonyl-phenyl)-[4-(2-fluoro-4-methanesulfonyl-phenyl)-piperazin-1-yl]-methanone
The compound was prepared in analogy to example 358 from (2,6-difluoro-3-methanesulfonyl-phenyl)-[4-(2-fluoro-4-methanesulfonyl-phenyl)-piperazin-1-yl]-methanone and sodium cyclopentanolate. MS (m/e): 560.5 (MNH4+, 43%)

reactant | (2,6-difluoro-3-methanesulfonyl-phenyl)-[4-(2-fluoro-4-methanesulfonyl-phenyl)-piperazin-1-yl]-methanone | FC1=C(C(=CC=C1S(=O)(=O)C)F)C(=O)N1CCN(CC1)C1=C(C=C(C=C1)S(=O)(=O)C)F | C19H19F3N2O5S2
reactant | sodium cyclopentanolate | C1(CCCC1)[O-].[Na+]
product | (6-Cyclopentyloxy-2-fluoro-3-methanesulfonyl-phenyl)-[4-(2-fluoro-4-methanesulfonyl-phenyl)-piperazin-1-yl]-methanone | C1(CCCC1)OC1=CC=C(C(=C1C(=O)N1CCN(CC1)C1=C(C=C(C=C1)S(=O)(=O)C)F)F)S(=O)(=O)C | C24H28F2N2O6S2
